US05721185
Preparation of (N-t-butylamino)(dimethyl)(tetrahydrofluorenyl)silane
5.78 g (34.9 mmol) of ClSiMe2NHCMe3 (prepared according to the method described in J. Prakt. Chem, 24(3-4), 226-30 (1964)) was added to 100 ml of THF. To this solution 6.15 g (34.9 mmol) of lithium tetrahydrofluorenide was added. The solution was then brought to reflux for 10 min and the solution cooled to room temperature. Gas chromatographic (GC) analysis showed the reaction to be complete. The solvent was then removed under reduced pressure, the residue extracted with pentane, filtered and the solvent again removed under reduced pressure to give 9.80 g of product (94 percent yield).

reactant | ClSiMe2NHCMe3 | 34.9 mmol, 5.78 g | Cl[Si](C)(C)NC(C)(C)C | C6H16ClNSi
reactant | lithium tetrahydrofluorenide | 34.9 mmol, 6.15 g | [CH-]1CCCC=2C3=CC=CC=C3CC12.[Li+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (N-t-butylamino)(dimethyl)(tetrahydrofluorenyl)silane | 9.80 g, 94 percent yield | C(C)(C)(C)N[Si](C1CCCC=2C3=CC=CC=C3CC12)(C)C | C19H29NSi
